US05677305
4-Chloro-3-(4-oxo-4H-pyridin-1-yl)-6-nitroaniline
First, a mixture containing 14.3 g of 3,4-dichloro-6-nitroaniline, 9.01 g of 4-hydroxypyridine, 5.87 g of 86% potassium hydroxide, and 70 ml of dimethylsulfoxide was heated in an oil bath at 130° C. for 3.5 hours, and cooled. Ice water was added to the mixture and precipitated crystals were filtered. Then, 16.9 g of the resultant crude crystals were applied to a column containing 100 g of silica gel and eluted with 10% methanol in chloroform. The eluate was combined and evaporated. The residue was filtered to give 9.78 g of crude crystals of 4-chloro-3-(4-oxo-4H-pyridin-1-yl)-6-nitroaniline (melting point: 288° to 291° C. (decomposition)). Then, 300 mg of the crude crystals were recrystallized with methanol to give 268 mg of crystals of 4-chloro-3-(4-oxo-4H-pyridin-1-yl)-6-nitroaniline.

reactant | 3,4-dichloro-6-nitroaniline | 14.3 g | ClC=1C=C(N)C(=CC1Cl)[N+](=O)[O-] | C6H4Cl2N2O2
reactant | 4-hydroxypyridine | 9.01 g | OC1=CC=NC=C1 | C5H5NO
reactant | potassium hydroxide | 5.87 g | [OH-].[K+]
solvent | dimethylsulfoxide | 70 ml | CS(=O)C | C2H6OS
product | 4-Chloro-3-(4-oxo-4H-pyridin-1-yl)-6-nitroaniline | 268 mg | ClC1=C(C=C(N)C(=C1)[N+](=O)[O-])N1C=CC(C=C1)=O | C11H8ClN3O3
